US06603008B1
5-(4-Ethyl-5-(3-fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide (Step 5)
A mixture of 5-(5-(4-bromo-3-fluorophenyl)-4-ethyl-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide (450 mg, 0.912 mmol), 4-tributylstannyl-1,3-thiazol (410 mg, 1.095 mmol), tetrakis(triphenylphosphine)palladium (105 mg, 0.091 mmol), lithium chloride (97 mg, 2.281 mmol) in 1,4-dioxane (11 ml) was stirred at reflux for 17 h. After cooling, the mixture was diluted with ethyl acetate, washed with water. The organic layer was dried (MgSO4) and concentrated. This was purified on silica gel eluting with ethyl acetate/hexane (1:3/1:2) to afford 350 mg (77.1%) of the titled compound as a yellow solid.

reactant | 5-(5-(4-bromo-3-fluorophenyl)-4-ethyl-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide | 0.912 mmol, 450 mg | BrC1=C(C=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)CC)F | C17H13BrF4N4O2S
reactant | 4-tributylstannyl-1,3-thiazol | 1.095 mmol, 410 mg | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
reactant | lithium chloride | 2.281 mmol, 97 mg | [Cl-].[Li+]
solvent | 1,4-dioxane | 11 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.091 mmol, 105 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Ethyl-5-(3-fluoro-4-(1,3-thiazol-4-yl)phenyl)-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide | 350 mg, 77.1% | C(C)C=1C(=NN(C1C1=CC(=C(C=C1)C=1N=CSC1)F)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C20H15F4N5O2S2
